US06133302
Preparation of (E)-N-4-methoxybenzyl-4-oxo-4-(3,4-dichlorophenyl)-2-butencarboxamide
A solution of 4-(3,4-dichlorophenyl)-4-oxo-2-butencarboxylic acid (2.0 g, 8.16 mmol) and oxalyl chloride (0.84 ml, 9.79 mmol) in chloroform (25 ml), was maintained at room temperature under nitrogen atmosphere for 3 hours. The solvent was removed under vacuum and the residue evaporated twice from toluene with the rotary evaporator to remove traces of oxalyl chloride. The thus obtained acid chloride was dissolved in methylene chloride (15 ml) and cooled at -78° C., under inert atmosphere. TEA (1.25 ml, 9.79 mmol), 4-DMAP (0.1 g, 0.816 mmol) and 4-methoxy benzylamine (1.12 g, 8.16 mmol) were added while magnetic stirring was continued at -78° C. for 4 hours. The reaction mixture was allowed to warm at room temperature and then diluted with methylene chloride (100 ml); the organic phase was washed with 1N HCl (3×10 ml), saturated potassium bicarbonate (3×10 ml), brine (3×15 ml), dried over anhydrous sodium sulphate and concentrated under vacuum. The residue was purified by flash chromatography, using cyclohexane/ethyl acetate 0÷5 as eluent. The title compound was obtained as a light yellow solid (1.84 g, 62w) (m.p. 169°-170° C.).

reactant | 4-(3,4-dichlorophenyl)-4-oxo-2-butencarboxylic acid | 8.16 mmol, 2.0 g | ClC=1C=C(C=CC1Cl)C(C=CCC(=O)O)=O | C11H8Cl2O3
reactant | oxalyl chloride | 9.79 mmol, 0.84 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-methoxy benzylamine | 8.16 mmol, 1.12 g | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | 4-DMAP | 0.816 mmol, 0.1 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | (E)-N-4-methoxybenzyl-4-oxo-4-(3,4-dichlorophenyl)-2-butencarboxamide | COC1=CC=C(CNC(=O)C\C=C\C(C2=CC(=C(C=C2)Cl)Cl)=O)C=C1 | C19H17Cl2NO3
